US04705791
1-(3-Tolylsulphenyl)methyl-5-chloropyrimidin-2-one
1-Chloromethyl-5-chloropyrimidin-2-one (see Preparation 15) (1.0 mmol) was added to a mixture of m-thiocresol (1.0 mmol) and triethylamine (1.0 mmol). The mixture was stirred at room temperature for 20 mins and at 40° C. for 20 mins before the solvent was distilled off and the residue triturated with water, extracted into chloroform, dried (MgSO4) and evaporated. The residue was washed with cold acetone (1 ml). The insoluble product was identical with an authentic sample prepared as described in Example 14. Yield: 60 mg, 22%.

reactant | 1-Chloromethyl-5-chloropyrimidin-2-one | 1.0 mmol | ClCN1C(N=CC(=C1)Cl)=O | C5H4Cl2N2O
reactant | m-thiocresol | 1.0 mmol | CC1=CC(=CC=C1)S | C7H8S
reactant | triethylamine | 1.0 mmol | C(C)N(CC)CC | C6H15N
product | 1-(3-Tolylsulphenyl)methyl-5-chloropyrimidin-2-one | C1(=CC(=CC=C1)SCN1C(N=CC(=C1)Cl)=O)C | C12H11ClN2OS
